US06194425B1
Dimethylformamide diethyl acetal (46 mL) was added to a suspension of 3-(5-methyl-1H-tetrazol-1-yl)pyridine-4-carboxylic acid (36 g) in dichloromethane (800 mL). The reaction mixture was stirred at ambient temperature overnight then washed six times with water (500 mL), dried over magnesium sulfated, and concentrated under vacuum. The residue was recrystallized from ethyl acetate/hexanes to provide 40 g of ethyl 3-(5-methyl-1H-tetrazol-1-yl)pyridine-4-carboxylate as a solid.

reactant | Dimethylformamide diethyl acetal | 46 mL | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | 3-(5-methyl-1H-tetrazol-1-yl)pyridine-4-carboxylic acid | 36 g | CC1=NN=NN1C=1C=NC=CC1C(=O)O | C8H7N5O2
solvent | dichloromethane | 800 mL | ClCCl | CH2Cl2
product | ethyl 3-(5-methyl-1H-tetrazol-1-yl)pyridine-4-carboxylate | 40 g | CC1=NN=NN1C=1C=NC=CC1C(=O)OCC | C10H11N5O2
